US04329347
6-[4-(3,5-Dibromo-4-amino-phenylmercapto)-butoxy]-3,4-dihydrocarbostyril
Prepared analogous to Example 122 from 6-(4-bromobutoxy)-3,4-dihydro-carbostyril (m.p. 142°-147° C.) and 3,5-dibromo-4-amino-thiophenol.

reactant | 6-(4-bromobutoxy)-3,4-dihydro-carbostyril | BrCCCCOC=1C=C2CCC(NC2=CC1)=O | C13H16BrNO2
reactant | 3,5-dibromo-4-amino-thiophenol | BrC=1C=C(C=C(C1N)Br)S | C6H5Br2NS
product | 6-[4-(3,5-Dibromo-4-amino-phenylmercapto)-butoxy]-3,4-dihydrocarbostyril | BrC=1C=C(C=C(C1N)Br)SCCCCOC=1C=C2CCC(NC2=CC1)=O | C19H20Br2N2O2S
